US06303593B1
2,3-diaminobenzoic acid
To a suspension of 2 g (9.4 mmol) of 2,3-di-nitrobenzoic acid in 20 mL of acetic acid at 0° C. was added a solution of 14.8 g (65 mmol) SnCl2. 2 H2O in 7 mL of concentrated HCl. After stirring for 2 h at rt, the reaction mixture was concentrated. The residue was dissolved in 30 mL of H2O and the pH was adjusted to pH=12-13 with 6N NaOH. The mixture was filtered and the solid was washed with 0.1N HCl. The combined aqueous fractions were concentrated to give 1.4 g of the title compound.

reactant | 2,3-di-nitrobenzoic acid | 9.4 mmol, 2 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H4N2O6
reactant | SnCl2 | 65 mmol, 14.8 g | Cl[Sn]Cl
reactant | H2O | O | H2O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | HCl | 7 mL | Cl | ClH
product | 2,3-diaminobenzoic acid | 1.4 g | NC1=C(C(=O)O)C=CC=C1N | C7H8N2O2
